US03962274
To a solution of 4 parts of 1-(2-azidoethyl)-2-methylimidazole in approximately 40 parts of 2-propanol is added 10 parts of a 20% solution of hydrogen chloride in 2-propanol. The precipitate which results (formation of which can be speeded by introducing a small amount of anhydrous ether) is isolated by filtration, washed with anhydrous ether, dried in air, and recrystallized from a mixture of 2-propanol and anhydrous ether to give 1-(2-azidoethyl)-2-methylimidazole hydrochloride melting at 132°-133.5°.

reactant | 1-(2-azidoethyl)-2-methylimidazole | N(=[N+]=[N-])CCN1C(=NC=C1)C | C6H9N5
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-(2-azidoethyl)-2-methylimidazole hydrochloride | Cl.N(=[N+]=[N-])CCN1C(=NC=C1)C | InChI=1S/C6H9N5.ClH/c1-6-8-2-4-11(6)5-3-9-10-7;/h2,4H,3,5H2,1H3;1H
